US06570040B2
Preparation of N-Benzyloxyacetylmannosamine (Mixture of Anomers) (31)
To a round-bottom flask containing sat. NaHCO3 (9 mL) was added mannosamine hydrochloride (500 mg, 2.30 mmol). The solution was stirred for 1 h under N2, at which point benzyloxyacetyl chloride (0.44 mL, 2.8 mmol) was added dropwise via syringe. The biphasic mixture was stirred vigorously for 4 h resulting in a clear light yellow solution. The solution was concentrated and the residue was purified by silica gel chromatography eluting with a gradient of 20:1 to 10:1 CHCl3/MeOH to afford 512 mg (68%) of a viscous oil. IR (thin film): 3331, 2918, 2356, 1652, 1524 cm−1. 1H NMR (400 MHz, D2O): δ3.26 (s, 1H), 3.33 (app d, 1H, J=6.7), 3.45 (app t, 1H, J=9.7), 3.54-3.66 (m, 1H), 3.69 (app d, 1H, J=4.8), 3.72 (d, 1H, J=2.0), 3.74-3.86 (m, 2H), 3.98 (dd, 1H, J=4.5, 9.8), 4.06 (s, 2H), 4.10 (s, 1H), 4.24-4.27 (m, 1H), 4.38-4.40(m, 1H), 4.55 (s, 2H), 4.57 (d, 1H, J=4.3), 4.97 (s, 1H), 4.99 (s, 1H), 7.32-7.36 (m, 10H), 7.49 (d, 1H, J=10.7), 7.58 (d, 1H, J=9.6). 13C NMR (100 MHz, D2O): δ52.9, 60.4, 66.8, 68.5, 68.7, 72.0, 73.5, 76.5, 89.3, 92.8, 128.5, 128.6, 128.7, 128.8. HRMS (FAB) m/z 328.1396 (MH+C15H22NO7 requires 328.1396).

reactant | NaHCO3 | 9 mL | C(=O)(O)[O-].[Na+]
reactant | mannosamine hydrochloride | 2.30 mmol, 500 mg | Cl.OC1[C@@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | benzyloxyacetyl chloride | 2.8 mmol, 0.44 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
product | N-Benzyloxyacetylmannosamine | 512 mg, 68% | C(C1=CC=CC=C1)OCC(=O)N[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C15H21NO7
